US05322847
3-(Quinol-2-ylmethoxy)benzyl alcohol
In a similar manner 4-(5-fluorobenzothiazol-2-ylmethoxy)-4'-hydroxydiphenyl, m.p. 210°-211° C. was prepared from 2-chloromethyl-5-fluorobenzothiazole and 4,4-dihydroxydiphenyl, 3-(5-fluorobenzothiazol-2-ylmethylthio)benzyl alcohol was prepared from 3-mercaptobenzyl alcohol and 2-chloromethyl-5-fluorobenzothiazole and 2-ethoxycarbonyl-7-(5-fluorobenzothiazol-2-ylmethoxy)chroman, m.p. 109°-112° C. was prepared from 2-chloromethyl-5-fluorobenzothiazole and 2-ethoxycarbonyl-7-hydroxychroman.

reactant | 2-chloromethyl-5-fluorobenzothiazole | ClCC=1SC2=C(N1)C=C(C=C2)F | C8H5ClFNS
reactant | 3-(5-fluorobenzothiazol-2-ylmethylthio)benzyl alcohol | FC=1C=CC2=C(N=C(S2)CSC=2C=C(CO)C=CC2)C1 | C15H12FNOS2
reactant | 3-mercaptobenzyl alcohol | SC=1C=C(CO)C=CC1 | C7H8OS
reactant | 2-ethoxycarbonyl-7-(5-fluorobenzothiazol-2-ylmethoxy)chroman | C(C)OC(=O)C1OC2=CC(=CC=C2CC1)OCC=1SC2=C(N1)C=C(C=C2)F | C20H18FNO4S
reactant | 2-ethoxycarbonyl-7-hydroxychroman | C(C)OC(=O)C1OC2=CC(=CC=C2CC1)O | C12H14O4
product | 3-(Quinol-2-ylmethoxy)benzyl alcohol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CO)C=CC1 | C17H15NO2
